US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 3-methoxy-6-chloroaniline to yield 2-[(3-methoxy-6-chlorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 3-methoxy-6-chloroaniline | COC=1C=C(N)C(=CC1)Cl | C7H8ClNO
product | 2-[(3-methoxy-6-chlorophenyl)amino]phenylacetic acid | COC=1C=C(C(=CC1)Cl)NC1=C(C=CC=C1)CC(=O)O | C15H14ClNO3
